US07727979B2
2-guanidino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester
Analogously to the preparation of Example C-01, 3-bromo-4-oxo-cyclohexane carboxylic acid ethyl ester is reacted with 2-imino-4-thiobiuret to form the title compound.

reactant | 3-bromo-4-oxo-cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)Br | C9H13BrO3
reactant | 2-imino-4-thiobiuret | C(=NC(=S)N)(N)N | C2H6N4S
product | 2-guanidino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester | C(C)OC(=O)C1CC2=C(N=C(S2)NC(=N)N)CC1 | C11H16N4O2S
